US08748466B2
Ethyl 2-methyl-2-(methylsulfonyl)-5-oxopentanoate
2,6-Dimethylpyridine (6.1 mL, 52.9 mmol, 2.0 equiv), osmium tetroxide (2.5% w/v solution in tert-butyl alcohol, 6.6 mL, 0.53 mmol, 0.02 equiv), and sodium periodate (23.1 g, 106 mmol 4.0 equiv) were added sequentially to a solution of ethyl 2-methyl-2-(methylsulfonyl)hex-5-enoate (6.2 g, 26.0 mmol, 1.0 equiv) in 1,4-dioxane-water (3:1, 0.27 L) at room temperature. After vigorously stirring overnight (approx. 18 h), the reaction was partitioned between dichloromethane (0.2 L) and water (0.2 L). The aqueous phase was extracted with dichloromethane (0.2 L). The combined organic phases were washed with brine (30 mL), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to provide the title compound as an oil (6.2 g). MS (GCMS) m/z 237 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ1.34 (t, J=7.22 Hz, 3H) 1.63 (s, 3H) 2.21-2.39 (m, 1H) 2.56 (s, 2H) 2.65-2.81 (m, 1H) 3.05-3.17 (m, 3H) 4.30 (q, J=7.15 Hz, 2H) 9.79 (s, 1H).

reactant | 2,6-Dimethylpyridine | 52.9 mmol, 6.1 mL, 2.0 equiv | CC1=NC(=CC=C1)C | C7H9N
reactant | sodium periodate | 106 mmol, 23.1 g, 4.0 equiv | I(=O)(=O)(=O)[O-].[Na+]
reactant | ethyl 2-methyl-2-(methylsulfonyl)hex-5-enoate | 26.0 mmol, 6.2 g, 1.0 equiv | CC(C(=O)OCC)(CCC=C)S(=O)(=O)C | C10H18O4S
solvent | 1,4-dioxane water | 0.27 L | O1CCOCC1.O
catalyst | osmium tetroxide | 0.53 mmol, 6.6 mL, 0.02 equiv | [Os](=O)(=O)(=O)=O
product | Ethyl 2-methyl-2-(methylsulfonyl)-5-oxopentanoate | 6.2 g | CC(C(=O)OCC)(CCC=O)S(=O)(=O)C | C9H16O5S
